### PR TITLE
MapProofs

### PR DESCRIPTION
**Pull request by joscoh**
I am working with Dr. Weirich on verifying Data.Map, and since I don't yet have access to the repo, she suggested that I create a pull request with the proofs I have completed so far.

### CODE REVIEW

File: examples/containers/theories/MapProofs.v [hunk 1]
```diff
@@ -1724,4 +1723,793 @@ Proof.
...
+  destruct H with(P:= fun (m : Map e a) => member key m = member key map2 || member key map1).
+  - intros. assert (sem s key = sem map1 key ||| sem map2 key). { apply H4. }
+    eapply member_spec in H2. eapply member_spec in A.
+    unfold oro in H5. destruct (sem map1 key) eqn : ?.
+    + assert (member key s = true). { apply H2. exists a0. assumption. }
+      assert (member key map1 = true). { apply A. exists a0. assumption. }
+      rewrite H6. rewrite H7. symmetry. rewrite orb_true_iff. right. reflexivity.
+    + destruct A. destruct H2. eapply member_spec in H0. destruct H0.
+      destruct (sem s key) eqn : ?.
+      * assert (member key s = true). { apply H8. exists a0. reflexivity. }
```
Comment (nomeata) [inline examples/containers/theories/MapProofs.v]: Do you know about `replace (member key s) with true by (…).`? Sometimes nicer than asserting an equality and then rewriting with it.

**Comment by nomeata** [comment]
Impressive stuff :-) (at least judging from volume, didn’t do a real review)

File: examples/containers/theories/MapProofs.v [hunk 2]
```diff
@@ -1724,4 +1723,793 @@ Proof.
...
+Proof.
+  intros. unfold elems. rewrite foldr_foldrWithKey_equiv. rewrite <- (elems_toList_second_lemma _ nil).
+  rewrite app_nil_r. reflexivity.
+Qed.
+
+(*The following theorem are the axioms from ContainerAxioms*)
+
+(*A helpful lemma that allows us to use reflexivity to prove that x == x*)
+Lemma eq_coq_implies_haskell : forall {x : Type} { y : Type} `{Eq_ x} `{Eq_ y} `{EqLaws x} `{EqLaws y} x0 y0,
+   x0 = y0 -> _GHC.Base.==_  x0 y0 = true .
```
Comment (lastland) [inline examples/containers/theories/MapProofs.v]: Do you know about the `EqExact` type class (https://github.com/antalsz/hs-to-coq/blob/master/base-thy/GHC/Base.v#L402, `reflect P b` can be read as `P <-> b = true`)? It looks like what you need in place of this lemma.

**Comment by antalsz** [comment]
Thanks, Josh – welcome to `hs-to-coq`!  I've invited you to the repo :-)
